US04113968
1.4 Parts of metallic sodium was dissolved in 50 parts of anhydrous methanol, and 5.5 parts of ethyl 3,3-dimethyl-4,6,6-trichloro-5-hexenoate prepared in the same manner as in Example 1 was added to the solution. The mixture was agitated for 2 hours under reflux of methanol. The liquid reaction mixture was naturally cooled, and 20 parts of water was added thereto and the mixture was agitated at 40° to 50° C. for 2 hours. Then, methanol was distilled under reduced pressure, and the residue was neutralized with hydrochloric acid and extracted with diethyl ether. The ether extract was dried and the ether was distilled to obtain 3.7 parts of the crystal of 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylic acid. The yield was 88 % based on ethyl 3,3-dimethyl-4,6,6-trichlorohexenoate.

reactant | sodium | [Na] | Na
reactant | water | O | H2O
reactant | ethyl 3,3-dimethyl-4,6,6-trichloro-5-hexenoate | CC(CC(=O)OCC)(C(C=C(Cl)Cl)Cl)C | C10H15Cl3O2
solvent | methanol | CO | CH4O
product | 2,2-dimethyl-3-(2',2'-dichlorovinyl)-cyclopropane-carboxylic acid | yield was 88 % | CC1(C(C1C=C(Cl)Cl)C(=O)O)C | C8H10Cl2O2
